US07615562B2
3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1H-indole-7-carbonitrile
The title compound was prepared as described in Example 215, starting from SEM-protected 1H-indole-7-carbonitrile and (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine, followed by cleavage of the SEM-protecting group with TBAF. Yield: 10 mg (6%).

reactant | 1H-indole-7-carbonitrile | N1C=CC2=CC=CC(=C12)C#N | C9H6N2
reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 3-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-1H-indole-7-carbonitrile | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CNC2=C(C=CC=C12)C#N)(C)C)C | C22H26N6
